US07645776B2
4-{5-[4-Methyl-1-(2-phenoxy-acetyl)-piperazin-2-yl]-[1,2,4]oxadiazol-3-yl}-benzamide
0.1 mmol of 4-{5-[1-(2-Phenoxy-acetyl)-piperazin-2-yl]-[1,2,4]oxadiazol-3-yl}-benzamide are dissolved in 1 ml DMF and 1 eq. DIPEA and Na2CO3 added. To the suspension 1 eq. of MeI is added and the reaction stirred at room temperature overnight. The product is isolated via preparative HPLC.

reactant | 4-{5-[1-(2-Phenoxy-acetyl)-piperazin-2-yl]-[1,2,4]oxadiazol-3-yl}-benzamide | 0.1 mmol | O(C1=CC=CC=C1)CC(=O)N1C(CNCC1)C1=NC(=NO1)C1=CC=C(C(=O)N)C=C1 | C21H21N5O4
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | MeI | 1 eq. | CI | CH3I
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 4-{5-[4-Methyl-1-(2-phenoxy-acetyl)-piperazin-2-yl]-[1,2,4]oxadiazol-3-yl}-benzamide | CN1CC(N(CC1)C(COC1=CC=CC=C1)=O)C1=NC(=NO1)C1=CC=C(C(=O)N)C=C1 | C22H23N5O4
